data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_542891_1,[C:1]1(/[C:5](=[C:6](\[N:4]([H:10])[H:11])[H:15])[H:14])([O:7][H:9])[C:2]([H:12])([H:13])[C:3]1=[O:8]>>[C:1]1([O:7][H:9])=[C:5]([H:14])[C:6]([N:4]([H:10])[H:11])([H:15])[C:3](=[O:8])[C:2]1([H:12])[H:13],9.83669000002621
MR_111995_0,[C@:1]([C:2]([H:12])([H:13])[H:14])([C:4](=[O:7])[H:9])(/[C:5](=[C:6](\[C:3]([H:15])([H:16])[H:17])[H:11])[H:10])[H:8]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:5](/[C@:6]([C:3]([H:15])([H:16])[H:17])([C:4](=[O:7])[H:9])[H:11])[H:10])[H:8],61.15426749997681
MR_543877_1,[C:1]([C:5](/[C:3](=[C:8](\[C:2]([H:19])([H:20])[H:21])[H:15])[O:9][H:10])=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:16])([H:17])[H:18]>>[C:1]([C:5]1=[C:3]([O:9][H:10])[C:8]([C:2]([H:19])([H:20])[H:21])([H:15])[C:4]1([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:16])([H:17])[H:18],41.015282499994186
MR_495728_1,[C:1]([C:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[H:15])=[N:7]/[H:14])([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:9]>>[C:1](\[C:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[H:15])([N:6]([H:12])[H:13])[N:7]([H:11])[H:14])(=[N:5]/[H:10])[H:9],48.70027499999552
MR_212434_1,[C@@:1]([C:2]([O:5][H:8])=[O:6])([N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[H:9]>>[C:1](\[N:3]([H:10])[H:11])(=[C:4](/[O:7][C:2]([O:5][H:8])=[O:6])[H:12])[H:9],62.16830749998479
MR_597868_0,[C:1]([N:2]([C:4](=[O:6])[H:10])[O:5][H:7])([N:3]([H:8])[H:9])([H:11])[H:12]>>[C:1]([N:3]([H:8])[H:9])([O:6]/[C:4](=[N:2]/[O:5][H:7])[H:10])([H:11])[H:12],42.33993500000267
MR_74671_1,[C:1](/[N:8]=[C:4](/[N:6]([H:9])[H:10])[N:7]=[C:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:14])([H:15])[H:19])([H:11])([H:12])[H:13]>>[C:1]([N:8]1[C:4]([N:6]([H:9])[H:10])=[N:7][C:5]1([C:2]([H:16])([H:17])[H:18])[C:3]([H:14])([H:15])[H:19])([H:11])([H:12])[H:13],49.32714750001793
MR_184767_0,[C:1]([C:5]([C:2]([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[H:11])([O:8][H:9])[H:12])(=[O:6])[O:7][H:10]>>[C:1]([C:2]([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[H:11])([C:5](=[O:8])[H:12])([O:6][H:9])[O:7][H:10],53.537044999982726
MR_299702_1,[C:1]([C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])=[O:7])([N:6]([H:8])[H:9])([H:10])[H:11]>>[C:1](\[C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([O:7][H:8])[H:11])(=[N:6]/[H:9])[H:10],60.76710000002692
MR_127411_1,[C:1]([C:4](/[C:5]([C:2]([H:15])([H:16])[H:17])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:11])=[N:8]\[N:6]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:5]([C:2]([H:15])([H:16])[H:17])[C@:7]([C:3]([H:18])([H:19])[H:20])([H:11])[N:8]1[N:6]([H:9])[H:10])([H:12])([H:13])[H:14],39.537520000015576
MR_161887_2,[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:4]([O:5][H:8])=[N:7]/[C:2]([H:11])([H:12])[H:13])([O:6][H:9])[H:10]>>[C:1]([C:4]([C:3]([H:14])([H:15])[H:16])([O:5][H:8])[N:7]([C:2]([H:11])([H:12])[H:13])[H:9])(=[O:6])[H:10],43.06030500003871
MR_380621_1,[C:1]([C:4]([N:2](/[C:3]([N:6]([H:11])[H:12])=[N:8]/[H:13])[N:5]([H:9])[H:10])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:4](=[C:7]([H:17])[H:18])[N:8](/[C:3](=[N:2]\[N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16],58.8770700000191
MR_488019_0,[C:1]([C:2]([O:4][H:7])([H:11])[H:12])([N:3]([H:9])[H:10])([N:5]=[O:6])[H:8]>>[C:1]([C:2]([N:5]=[O:6])([H:11])[H:12])([N:3]([H:9])[H:10])([O:4][H:7])[H:8],65.51099999999892
MR_546587_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:6](\[C:4]([H:20])([H:21])[H:22])[N:8]([H:12])[H:13])([N:7]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](\[C:3]([H:17])([H:18])[H:19])[C:6]([C:4]([H:20])([H:21])[H:22])([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])[H:9],59.92248499998354
MR_369739_1,[C:1]([N:2]([H:9])[H:12])([N:3]([H:10])[H:11])=[C:5](/[C:6](=[C:4](/[O:7][H:8])[H:13])[H:15])[H:14]>>[C:1]1([N:2]([H:9])[H:12])([N:3]([H:10])[H:11])[C@@:4]([O:7][H:8])([H:13])[C:6]([H:15])=[C:5]1[H:14],40.43484499999721
MR_503035_0,[C:1]([C:5](=[C:2]([N:3]([H:9])[H:10])[N:4]([H:8])[H:11])[H:15])(/[N:6]=[N:7]/[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:5](/[C:2](=[N:3]/[H:10])[N:4]([H:8])[H:11])([H:15])[N:6]1[N:7]([H:9])[H:12],47.99559250002687
MR_282565_1,[C:1](/[N:3]=[C:5](\[C:2]([H:13])([H:14])[H:15])[C:6]1([H:9])[C:4](=[C:7]([H:16])[H:17])[O:8]1)([H:10])([H:11])[H:12]>>[C:1]([N:3]1[C:4](=[C:7]([H:16])[H:17])[O:8][C:6]([H:9])=[C:5]1[C:2]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12],53.122894999993946
MR_380609_1,[C:1](/[C:4]([N:2](/[C:3]([N:6]([H:13])[H:14])=[N:9]\[H:15])[N:5]([H:11])[H:12])=[C:7](\[O:8][H:10])[H:16])([H:17])([H:18])[H:19]>>[C:1](/[C:4](=[N:2]/[N:5]([H:11])[H:12])[C@:7](/[C:3]([N:6]([H:13])[H:14])=[N:9]\[H:15])([O:8][H:10])[H:16])([H:17])([H:18])[H:19],58.31483000001185
MR_198298_0,[C:1](/[C:3](=[C:2](\[O:4][H:7])[N:5][O:6])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:3]1([H:8])[C:2]([O:4][H:7])=[N:5][O:6]1)([H:9])([H:10])[H:11],33.042894999969405
